US09260427B2
Prepared using General Procedure 4: To a stirred solution of (S)-methyl 4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoate (316.6 mg, 0.79 mmol) in dioxane (15 mL) and water (1 mL) at 0° C. was added lithium hydroxide monohydrate (93.52 mg, 2.23 mmol). After 2 h, the solution was neutralized with 1 M HCl to pH 7.0. The mixture was partitioned between DCM (15 mL) and saturated aqueous NaHCO3 (10 mL). The organic layer was washed with saturated aqueous NaHCO3 (3×10 mL) and brine (10 mL). The organic layer was dried over MgSO4 and concentrated to afford 208 mg (69%) of (S)-4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoic acid, INT-1. LCMS-ESI (m/z) calculated for C22H25NO5: 383.2. found 384.1 [M+H]+, tR=2.13 min. (Method 1). 1H NMR (400 MHz, DMSO) δ 12.86 (s, 1H), 8.80 (d, J=8.0 Hz, 1H), 7.87-7.78 (m, 2H), 7.75-7.65 (m, 2H), 7.50-7.35 (m, 4H), 4.72 (ddd, J=10.3, 8.0, 5.1 Hz, 1H), 3.65 (s, 3H), 3.28-3.05 (m, 2H), 1.29 (s, 9H). 13C NMR (101 MHz, DMSO) δ 173.00, 167.21, 166.29, 154.39, 143.10, 130.85, 129.34, 129.27, 129.21, 129.03, 127.21, 125.39, 125.10, 53.75, 52.04, 34.64, 30.92, 30.88.

reactant | (S)-methyl 4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoate | 0.79 mmol, 316.6 mg | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C(=O)OC)C=C2)C(=O)OC)C=C1 | C23H27NO5
reactant | lithium hydroxide monohydrate | 2.23 mmol, 93.52 mg | O.[OH-].[Li+]
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
product | (S)-4-(2-(4-(tert-butyl)benzamido)-3-methoxy-3-oxopropyl)benzoic acid | 208 mg, 69% | C(C)(C)(C)C1=CC=C(C(=O)N[C@@H](CC2=CC=C(C(=O)O)C=C2)C(=O)OC)C=C1 | C22H25NO5
